US04696801
Following the procedure of Example 2, tridecylchloroformate was reacted with 2,2'-bibenzimidazole to give 1,1'-bis(tridecyloxycarbonyl)-2,2'- bibenzimidazole in 86% purity.

reactant | tridecylchloroformate | C(CCCCCCCCCCCC)OC(=O)Cl | C14H27ClO2
reactant | 2,2'-bibenzimidazole | C1=CC=C2C(=C1)NC(=N2)C3=NC4=CC=CC=C4N3 | C14H10N4
product | 1,1'-bis(tridecyloxycarbonyl)-2,2'- bibenzimidazole | C(CCCCCCCCCCCC)OC(=O)N1C(=NC2=C1C=CC=C2)C2=NC1=C(N2C(=O)OCCCCCCCCCCCCC)C=CC=C1 | C42H62N4O4
